US08304412B2
2-Amino-6-methyl-4-(tetrahydro-2H-pyran-2-yl)pyridine-3,5-dicarbonitrile
870 mg (7.62 mmol) of tetrahydro-2H-pyran-2-carbaldehyde, 504 mg (7.62 mmol) of malononitrile and 626 mg (7.62 mmol) of 3-aminocrotononitrile are dissolved in 8.4 ml of dry ethanol. The solution is cooled to 0° C., and 412 mg (7.62 mmol) of sodium methoxide are added a little at a time. The reaction mixture is then warmed to RT and stirred for 10 min. The mixture is then heated at reflux for 10 h. After cooling, the brown precipitate formed is filtered off with suction, washed three times with a total of 100 ml of ethanol and then dried at 50° C. under reduced pressure. The product is used without further purification for the next reaction. Purification may be carried out by preparative HPLC (column: YMC GEL ODS-AQ S-5, 15 μm; mobile phase gradient: acetonitrile/water 10:90→95:5).

reactant | tetrahydro-2H-pyran-2-carbaldehyde | 7.62 mmol, 870 mg | O1C(CCCC1)C=O | C6H10O2
reactant | malononitrile | 7.62 mmol, 504 mg | C(CC#N)#N | C3H2N2
reactant | 3-aminocrotononitrile | 7.62 mmol, 626 mg | N\C(=C/C#N)\C | C4H6N2
reactant | sodium methoxide | 7.62 mmol, 412 mg | C[O-].[Na+]
solvent | ethanol | 8.4 ml | C(C)O | C2H6O
product | 2-Amino-6-methyl-4-(tetrahydro-2H-pyran-2-yl)pyridine-3,5-dicarbonitrile | NC1=NC(=C(C(=C1C#N)C1OCCCC1)C#N)C | C13H14N4O
